US04933453
3-(4-(1-[1-Phenyl-1H-indol-3-yl]-4-piperazinyl)butyl)-2,5,5-trimethyl-4-thiazolidinone dihydrochloride
A mixture of 3-(4-bromobutyl)-2,5,5-trimethyl-4-thiazolidinone (5.00 g), 1-(1-phenyl-1H-indol-3-yl)piperazine dihydrochloride (7.80 g), N,N-diisopropylethylamine (9.65 g), NaI (350 mg) in acetonitrile (250 ml) was heated at 75° C. for 17 hours and the product was processed in substantially the same manner as in Example 10 to afford 2.80 g of crystals, m.p. 217°-219° C.

reactant | 3-(4-bromobutyl)-2,5,5-trimethyl-4-thiazolidinone | 5.00 g | BrCCCCN1C(SC(C1=O)(C)C)C | C10H18BrNOS
reactant | 1-(1-phenyl-1H-indol-3-yl)piperazine dihydrochloride | 7.80 g | Cl.Cl.C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)N1CCNCC1
reactant | N,N-diisopropylethylamine | 9.65 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaI | 350 mg | [Na+].[I-]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 3-(4-(1-[1-Phenyl-1H-indol-3-yl]-4-piperazinyl)butyl)-2,5,5-trimethyl-4-thiazolidinone dihydrochloride | 2.80 g | Cl.Cl.C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)N1CCN(CC1)CCCCN1C(SC(C1=O)(C)C)C | InChI=1S/C28H36N4OS.2ClH/c1-22-31(27(33)28(2,3)34-22)16-10-9-15-29-17-19-30(20-18-29)26-21-32(23-11-5-4-6-12-23)25-14-8-7-13-24(25)26;;/h4-8,11-14,21-22H,9-10,15-20H2,1-3H3;2*1H
